US08871760B2
2-Bromo-4,5-dimethoxyaniline (464 mg, 2.0 mmol) was dissolved in 10 ml of toluene at room temperature. DMAP (1 eq, 245 mg), and pyridine (1.3 eq, 0.22 ml) were added followed by phosgene (1.33 eq, 1.33 ml of a 20% solution in toluene). The mixture was heated to 90° C. for 4 hours. Upon cooling, the mixture was filtered and the filtrate was concentrated in vacuo to give 1-bromo-2-isocyanato-4,5-dimethoxy-benzene (542 mg, quantitative) as a light brown oil.

reactant | 2-Bromo-4,5-dimethoxyaniline | 2.0 mmol, 464 mg | BrC1=C(N)C=C(C(=C1)OC)OC | C8H10BrNO2
reactant | pyridine | 0.22 ml, 1.3 eq | N1=CC=CC=C1 | C5H5N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | DMAP | 245 mg, 1 eq | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-bromo-2-isocyanato-4,5-dimethoxy-benzene | 542 mg | BrC1=C(C=C(C(=C1)OC)OC)N=C=O | C9H8BrNO3
